US07449475B2
N-{2-[(2S)-Oxiran-2-ylmethoxy]phenyl}acetamide
A mixture of N-(2-hydroxyphenyl)acetamide (1.51 g, 10 mmol), (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate (2.59 g, 10 mmol) and cesium carbonate (Cs2CO3) (3.9 g, 12 mmol) in dimethylformamide (DMF) (30 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and H2O. The organic layer was dried over Na2SO4, filtered, concentrated and the residue was purified by silica gel flash chromatography to give the subtitled compound (1.34 g).

reactant | N-(2-hydroxyphenyl)acetamide | 10 mmol, 1.51 g | OC1=C(C=CC=C1)NC(C)=O | C8H9NO2
reactant | (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate | 10 mmol, 2.59 g | O1[C@@H](C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | cesium carbonate | 12 mmol, 3.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | N-{2-[(2S)-Oxiran-2-ylmethoxy]phenyl}acetamide | 1.34 g | O1[C@@H](C1)COC1=C(C=CC=C1)NC(C)=O | C11H13NO3
